US07378422B2
3-Amino-2-hydroxy-hexanoic acid cyclopropylamide (24)
[1-(Cyclopropylcarbamoyl-hydroxy-methyl)-butyl]-carbamic acid benzyl ester (48 g, 149.82 mmol) was dissolved in Methanol (1 L) and degassed with nitrogen for five minutes, palladium, 10 wt. % on activated carbon (2.5 g) was added, hydrogen was then added for 18 h. After 18 h the hydrogen was removed and the reaction was degassed with nitrogen and filtered the resulting filtrate was evaporated and dried under high vacuum to give a white solid 26.9 g, 144.42 mmol 97%.

reactant | [1-(Cyclopropylcarbamoyl-hydroxy-methyl)-butyl]-carbamic acid benzyl ester | 149.82 mmol, 48 g | C(C1=CC=CC=C1)OC(NC(CCC)C(O)C(NC1CC1)=O)=O | C17H24N2O4
solvent | Methanol | 1 L | CO | CH4O
product | 3-Amino-2-hydroxy-hexanoic acid cyclopropylamide | 144.42 mmol, 26.9 g, 97% | C1(CC1)NC(C(C(CCC)N)O)=O | C9H18N2O2
